US06844344B2
A solution of cis-(±)-4-(4-methoxybenzo[b]thiophen-2-yl)-2-methylpiperidine in THF (35 mL) was cooled to 0° C. (ice-water bath), then treated with NCS (2.26 g, 16.94 mol). After stirring 15 minutes, the ice-water bath was removed and the mixture was stirred at room temperature for 45 minutes. The mixture was then concentrated under reduced pressure and diluted with Et2O (100 mL), saturated aqueous NaHCO3 (50 mL) and H2O (50 mL). The mixture was shaken and partitioned in a separatory funnel. The aqueous layer was separated and extracted once with Et2O. The combined organic layers were washed once with H2O (50 mL), dried over MgSO4, filtered and concentrated under reduced pressure to give the cis-(±)-N-chloro-4-(4-methoxybenzo[b]thiophen-2-yl)-2-methylpiperidine as a yellow oil (4.78 g, 99%).

reactant | cis-(±)-4-(4-methoxybenzo[b]thiophen-2-yl)-2-methylpiperidine | COC1=CC=CC=2SC(=CC21)[C@@H]2C[C@@H](NCC2)C | C15H19NOS
reactant | NCS | 16.94 mol, 2.26 g | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
solvent | THF | 35 mL | C1CCOC1 | C4H8O
product | cis-(±)-N-chloro-4-(4-methoxybenzo[b]thiophen-2-yl)-2-methylpiperidine | 4.78 g, 99% | ClN1[C@H](C[C@H](CC1)C1=CC2=C(S1)C=CC=C2OC)C | C15H18ClNOS
